US06177423B1
3-Methoxy-acenaphthene-1,2-dione
A solution of 2-methoxynaphthalene (5 g, 31.6 mmol) and oxalyl chloride (11 mL, 126 mmol) in 150 mL of dichloromethane was cooled to −15° C. (CO2/ethylene glycol) under nitrogen. Aluminum trichloride (10.5 g, 79 mmol) was added slowly over 30 minutes. After 3 hours, the mixture was poured onto 100 g of ice. The layers were separated, and the aqueous layer was washed with dichloromethane. The combined organic layers were washed with saturated sodium bicarbonate, water, brine and dried over magnesium sulfate. The solution was concentrated to afford 4.5 g of a solid. The solid was triturated with dichloromethane to give 1.24 g of the title compound as a solid, mp 218°-220° C.; 1H NMR (DMSO-d6): δ8.38 (d, 1H), 8.25 (d, 1H), 7.90 (d, 1H), 7.63 (m, 2H), 4.07 (s, 3H).

reactant | 2-methoxynaphthalene | 31.6 mmol, 5 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | oxalyl chloride | 126 mmol, 11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | CO2 ethylene glycol | C(=O)=O.C(CO)O
reactant | Aluminum trichloride | 79 mmol, 10.5 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-Methoxy-acenaphthene-1,2-dione | 4.5 g | COC1=C2C(C(C=3C=CC=C(C=C1)C32)=O)=O | C13H8O3
